US05084447
A solution of 7-[(phenoxyacetyl)amino]-8-oxo-3-(diethoxyphosphinyl)-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl)ester (618 mg, 1 mmol) in methylene chloride (20 mL) was cooled to 0° C. under nitrogen. Bromotrimethylsilane (612 mg, 4 mmol) was added and the stirred reaction warmed to room temperature. After two hours, the solvent was removed in vacuo. The residue was stirred at room temperature with methanol-water for 0.5 hours. The reaction product was concentrated and (1 mmol) of the product was treated with trifluoroacetic acid (10 mL) and triethylsilane (4 mL) and stirred vigorously for one hour. The volatiles were removed in vacuo and the residue purified by flash chromatography on silica gel (21/7/7/9 ethyl acetate/acetonitrile/acetic/acid/water) followed by medium pressure liquid chromatography on a C18 column eluted with 10% to 20% acetonitrile/water. The fractions containing pure product were combined and lyophilized to yield 20 mg (5%) 7-[(phenoxyacetyl)amino]-8-oxo-3-phosphinyl-1-azabicyclo[ 4.2.0]-oct-2-ene-2-carboxylic acid:

reactant | 7-[(phenoxyacetyl)amino]-8-oxo-3-(diethoxyphosphinyl)-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl)ester | 1 mmol, 618 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2CCC1P(=O)(OCC)OCC)NC(COC1=CC=CC=C1)=O)=O | C33H35N2O8P
reactant | Bromotrimethylsilane | 4 mmol, 612 mg | Br[Si](C)(C)C | C3H9BrSi
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 4 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-[(phenoxyacetyl)amino]-8-oxo-3-phosphinyl-1-azabicyclo[ 4.2.0]-oct-2-ene-2-carboxylic acid | 20 mg, 5% | O(C1=CC=CC=C1)CC(=O)NC1C2CCC(=C(N2C1=O)C(=O)O)[PH2]=O | C16H17N2O6P
